US04622326
5-Benzoyl-1-ethyl-4-isopropylidenaminooxy-1H-pyrazolo[3,4-b]-pyridine
In 25 ml of dry tetrahydrofuran (THF hereafter) was dissolved 1.6 g of acetone oxime, followed by 2.46 g of potassium t-butoxide. After stirring 0.5 hour 5.0 g of 5-benzoyl-4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine in 50 ml of THF was added to the solution. After an additional 0.5 hour the reaction was quenched with ammonium chloride solution and the product was extracted with ether. Evaporation of the organic phase and recrystallization of the residue from ethanol gave 4.1 g of product, mp 115°-116° C.

reactant | acetone oxime | 1.6 g | CC(C)=NO | C3H7NO
reactant | potassium t-butoxide | 2.46 g | CC(C)([O-])C.[K+]
reactant | 5-benzoyl-4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine | 5.0 g | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)N(N=C2)CC)Cl | C15H12ClN3O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-Benzoyl-1-ethyl-4-isopropylidenaminooxy-1H-pyrazolo[3,4-b]-pyridine | 4.1 g | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)N(N=C2)CC)ON=C(C)C | C18H18N4O2
